US05217843
O-2,2,2-trichloroethyl N-(4-hydroxyphenyl)carbamate
4.3 g (0.02 mol) of 2,2,2-trichloroethyl chloroformate are dissolved in 20 ml of DMF (dimethyl formamide) and added dropwise to a solution of 10.9 g (0.1 mol) of 4-hydroxyaniline in 100 ml of DMF. After the mixture has been stirred for a further hour at room temperature, it is poured into ice water, acidified and filtered with suction, and the material filtered off is washed with water. The product is recrystallized from toluene using activated charcoal. 2.3 g of a substance of melting point 134° C. are obtained; 1H NMR: --NH-- 9.17 ppm (s, 1H), --CH2 4.9 ppm (s, 2H), --OH (+H2O) 3.31 ppm (s), aromatics 6.67 ppm (d, 2H) 7.27 ppm (d, 2H).

reactant | 2,2,2-trichloroethyl chloroformate | 0.02 mol, 4.3 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 4-hydroxyaniline | 0.1 mol, 10.9 g | OC1=CC=C(N)C=C1 | C6H7NO
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
solvent | DMF | 100 ml | CN(C=O)C | C3H7NO
product | O-2,2,2-trichloroethyl N-(4-hydroxyphenyl)carbamate | OC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C9H8Cl3NO3
